US05126357
2-(2-Picolylseleno)benzoic acid
To a stirred suspension of 10 g (0.025 mol) diselenosalicylic acid in 75 ml water is added 7.6 g (0.19 ml) sodium hydroxide, when the internal temperature rises slightly and the acid goes into solution. Then 20 g (0.189 mol) sodium carbonate and 11.6 g (0.067 mol) sodium dithionite are added with slight heating, followed by 2 h heating under reflux. After cooling to room temperature 9.8 g (0.06 mol) 2-picolyl chloride hydrochloride dissolved in 20 ml water are added dropwise and stirring is continued at room temperature for 14 h. Then 25% hydrochloric acid is added to adjust to pH 8 to 9 followed by acetic acid (98%) to pH 5-6. The precipitated white crude product is sucked off, washed neutral with water and recrystallized from 2-propanol (900 ml).

reactant | diselenosalicylic acid | 0.025 mol, 10 g | C(C=1C(O)=CC=CC1)(=[Se])[SeH] | C7H6OSe2
reactant | sodium hydroxide | 0.19 ml, 7.6 g | [OH-].[Na+]
reactant | sodium carbonate | 0.189 mol, 20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium dithionite | 0.067 mol, 11.6 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 2-picolyl chloride hydrochloride | 0.06 mol, 9.8 g | Cl.N1=C(C=CC=C1)CCl
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 75 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-(2-Picolylseleno)benzoic acid | N1=C(C=CC=C1)C[Se]C1=C(C(=O)O)C=CC=C1 | C13H11NO2Se
